US08748443B2
Part A. Preparation of 2-chloroethyl-3-tert-butyl-5-iodo-4-methoxyphenylcarbamate
To a solution of 3-tert-butyl-5-iodo-4-methoxyaniline (0.305 g, 1.0 mmol) in dichloromethane (5.00 mL) was added 2-chloroethyl chloroformate (0.143 g, 1.000 mmol) and triethylamine (0.279 mL, 2.0 mmol) to give a solution. The mixture was stirred for 3 hours and concentrated to give the title compound that was used without purification.

reactant | 3-tert-butyl-5-iodo-4-methoxyaniline | 1.0 mmol, 0.305 g | C(C)(C)(C)C=1C=C(N)C=C(C1OC)I | C11H16INO
reactant | 2-chloroethyl chloroformate | 1.000 mmol, 0.143 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | triethylamine | 2.0 mmol, 0.279 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
product | 2-chloroethyl-3-tert-butyl-5-iodo-4-methoxyphenylcarbamate | ClCCOC(NC1=CC(=C(C(=C1)I)OC)C(C)(C)C)=O | C14H19ClINO3
